US08067426B2
Intermediate 32: 2-(Butyloxy)-8-(methyloxy)-9-[6-(1-pyrrolidinyl)hexyl]-9H-purin-6-amine
Prepared similarly to Intermediate 38 from 2-(butyloxy)-9-(6-chlorohexyl)-8-(methyloxy)-9H-purin-6-amine and pyrrolidine.

reactant | 2-(butyloxy)-9-(6-chlorohexyl)-8-(methyloxy)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCCCl)OC)N | C16H26ClN5O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-(Butyloxy)-8-(methyloxy)-9-[6-(1-pyrrolidinyl)hexyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCCN1CCCC1)OC)N | C20H34N6O2
